US08703946B2
N-fluoro-N′-(chloromethyl)triethylenediamine bis(tetrafluoroborate) (56 mg, 0.16 mmol) was added to a solution of 5-(4-fluorobenzoyl)-4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine (50 mg, 0.14 mmol) in CH3CN (2 mL). The mixture was stirred at 80° C. for 16 hours. Then the solvent was evaporated in vacuo and the crude product was purified by flash column chromatography (silica; AcOEt in heptane 0/100 to 30/70). The desired fractions were collected and the solvents evaporated in vacuo. The product was repurified by reverse phase HPLC (gradient from 80% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 20% MeOH to 0% of 0.1% solution of ammonium formate/ammonium hydroxide buffer pH 9 solution in water and 100% MeOH) to yield (3-fluoro-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-(4-fluoro-phenyl)-methanone (11 mg, 20% yield). C20H17F2N3O2 1H NMR (500 MHz, CDCl3) δ ppm 4.05 (br. s., 2H), 4.20 (br. s., 2H), 4.79 (br. s., 2H), 5.05 (s, 2H), 6.97 (t, J=7.4 Hz, 1H), 7.02 (d, J=8.1 Hz, 2H), 7.16 (t, J=8.5 Hz, 2H), 7.29 (dd, J=8.5, 7.4 Hz, 2H), 7.50 (dd, J=8.7, 5.2 Hz, 2H).

reactant | N-fluoro-N′-(chloromethyl)triethylenediamine bis(tetrafluoroborate) | 0.16 mmol, 56 mg | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
reactant | 5-(4-fluorobenzoyl)-4,5,6,7-tetrahydro-2-(phenoxymethyl)-pyrazolo[1,5-a]pyrazine | 0.14 mmol, 50 mg | FC1=CC=C(C(=O)N2CC=3N(CC2)N=C(C3)COC3=CC=CC=C3)C=C1 | C20H18FN3O2
solvent | CH3CN | 2 mL | CC#N | C2H3N
product | (3-fluoro-2-phenoxymethyl-6,7-dihydro-4H-pyrazolo[1,5-a]pyrazin-5-yl)-(4-fluoro-phenyl)-methanone | 11 mg, 20% yield | FC=1C(=NN2C1CN(CC2)C(=O)C2=CC=C(C=C2)F)COC2=CC=CC=C2 | C20H17F2N3O2
